US06072075
N-Methyl-N-,N'-,N"-Tri-Boc-Guanidine
A solution of anhydrous methanol (0.04 ml, 1.0 mmol), N-,N'-,N"-tri-Boc-guanidine (1.80 g, 5.0 mmol), and triphenylphoshine (393 mg, 1.5 mmol) in anhydrous THF (50 ml) is cooled to -5° C. under an atmosphere of argon. Diethylazodicarboxylate (DEAD, 0.22 ml, 1.5 mmol) is added dropwise at a rate such that the reaction mixture is completely colorless before addition of the next drop. After the addition is completed, the reaction mixture is refluxed for 15 h. The solution is then cooled to room temperature, and hexanes (50 ml) is added. A precipitate of excess N-,N'-,N"-tri-Boc-guanidine forms which is collected by filtration on a Buechner-funnel and washed with a mixture of THF/hexanes 1:1. The filtrate is concentrated under reduced pressure and the product (colorless oil, 182 mg, 49%) isolated by flash chromatography on silica gel (eluent: dichloromethane-ethyl ether 98:2): 1H NMR (360 MHz, DMSO-d6) δ 10.17 (s, 1H), 2.94 (s, 3H), 1.43-1.36 (27H); FAB-MS m/e (relative intensity) 396 (100, M+Na+)0.374 (91, M+H+).

reactant | methanol | 1.0 mmol, 0.04 ml | CO | CH4O
reactant | N-,N'-,N"-tri-Boc-guanidine | 5.0 mmol, 1.80 g | C(=O)(OC(C)(C)C)NC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C16H29N3O6
reactant | triphenylphoshine | 1.5 mmol, 393 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethylazodicarboxylate | 1.5 mmol, 0.22 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-Methyl-N-,N'-,N"-Tri-Boc-Guanidine | CN(C(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C17H31N3O6
